US07405228B2
To a mixture of (S)-{3-[4-(4-cyanomethylidene-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-azide (2.94 mmol), triphenylphosphine (3.81 mmol) was stirred for 3 hours. It was refluxed by adding water overnight. Removal of solvent and purification of the product on silica gel column chromatography provided (S)-{3-[4-(4-cyanomethylidene-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-amine in 71% yield.

reactant | (S)-{3-[4-(4-cyanomethylidene-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-azide | 2.94 mmol | C(#N)C=C1CCN(CC1)C1=CC=C(C=C1)N1C(O[C@@H](C1)CN=[N+]=[N-])=O | C17H18N6O2
reactant | triphenylphosphine | 3.81 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | O | H2O
product | (S)-{3-[4-(4-cyanomethylidene-piperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-amine | 71% yield | C(#N)C=C1CCN(CC1)C1=CC=C(C=C1)N1C(O[C@H](C1)CN)=O | C17H20N4O2
